US04523030
In a manner analogous to that described in Example 5, starting from 26.6 g of aluminium trichloride, 9.61 g of 5-methoxybenzocyclobutene-1-carboxylic acid methyl ester and 17.56 g of p-cyanobenzoyl chloride there is obtained 4-(p-cyanobenzoyl)-5-hydroxybenzocyclobutene-1-carboxylic acid methyl ester having a melting point of 113°-114°.

reactant | aluminium trichloride | 26.6 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | 5-methoxybenzocyclobutene-1-carboxylic acid methyl ester | 9.61 g | COC(=O)C1=CC2=C1C=C(C=C2)OC | C11H10O3
reactant | p-cyanobenzoyl chloride | 17.56 g | C(#N)C1=CC=C(C(=O)Cl)C=C1 | C8H4ClNO
product | 4-(p-cyanobenzoyl)-5-hydroxybenzocyclobutene-1-carboxylic acid methyl ester | COC(=O)C1=CC2=C1C=C(C(=C2)C(C2=CC=C(C=C2)C#N)=O)O | C18H11NO4
